US06184225B2
A mixture of 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxy-7-nitroquinazoline hydrochloride (1.1 g, 25 mmol) and 10% palladium-on-charcoal catalyst (220 mg) in methanol (200 ml) and ethanol (10 ml) was stirred under hydrogen at 2.7 atmospheres for 7 hours. The catalyst was removed by filtration through diatomaceous earth, the solvent removed from the filtrate by evaporation and the solid residue washed with ether, collected by filtration and dried under vacuum to give 7-amino4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxyquinazoline hydrochloride (930 mg, 91%).

reactant | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxy-7-nitroquinazoline hydrochloride | 25 mmol, 1.1 g | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)[N+](=O)[O-])C=C(C(=C1)C)OC(=O)OC
catalyst | palladium-on-charcoal | 220 mg | [Pd] | Pd
solvent | methanol | 200 ml | CO | CH4O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 7-amino4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxyquinazoline hydrochloride | 930 mg, 91% | Cl.NC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)OC(=O)OC)C)F)OC | InChI=1S/C18H17FN4O4.ClH/c1-9-4-11(19)14(7-15(9)27-18(24)26-3)23-17-10-5-16(25-2)12(20)6-13(10)21-8-22-17;/h4-8H,20H2,1-3H3,(H,21,22,23);1H
